Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
L sided weakness/numbness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The pt is a ___ year-old R-handed F w/o significant PMH who
presents with L sided weakness and numbness. Hx obtained from pt
and family at bedside.

Pt reports that early this morning, she woke up with 
excruciating
pain in her L calf. She later went to her mom's house and at
approximately 8:30am acutely developed numbness in her LUE/LLE 
in
a downward spreading fashion. Denies associated burning,
tingling, headache or back pain. Around the same time, she also
noted weakness in L hemibody, typified by feeling herself slouch
in kitchen chair. She also endorses proceeding "fogginess" and
breathing difficulties, with her family reporting she seemed
confused. They also said she displayed some slurred speech. Pt
reports she had difficulty "getting her words out", although
denied any clear word finding difficulties. Due to this
constellation of sx, she was urgently brought to ___ for
evaluation. 

Within an hour at OSH ED, mental status and language improved.
Since that time, numbness and weakness have been improving in
gradual fashion. Continues to have sharp pain in L calf, which
with palpation radiates up to proximal thigh. She states she has
had this intermittently over the last 3 weeks and for which she
was planning to undergo ___ Dopplers per her PCP. Of note, pt
reports taking one line of cocaine last night (she says she has
taken a few times in past without issues). Denies prior hx of
migraines, sz, or strokes. 

On neuro ROS, the pt endorses headache in posterior occiput over
last hour, pressure-like in quality and mild in severity.
Otherwise ROS negative except as noted above. 

 
Past Medical History:
None 
 
Social History:
___
Family History:
PGF-stroke in ___  
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Physical Exam:
Vitals: T: 98 P: 69 BP: 121/67 RR: 16 O2sat: 99% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: Discomfort to palpation over L calf, 2+ radial, DP
pulses bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects. Speech
was not dysarthric. Able to follow both midline and appendicular
commands. Pt was able to register 3 objects and recall ___ at 5
minutes. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 2 to 1.5mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No adventitious movements,
such as tremor, noted. No asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  3    ___  ___  2   5-   4+ 4+    5-    5-  5-
R  5    ___   ___  5   5    5  5     5     5   5
*pt displayed giveway throughout LUE/LLE during confrontational
exam

-Sensory: Decreased LT over LUE/LLE 9(70-80% of normal).
Initially endorsed decreased PP over L hemibody but later stated
normal and then hyperesthesias. Intact to temperature sensation
b/l. Proprioception intact at great toes b/l. No extinction to
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF on R, none on HKS bilaterally.

-Gait: Deferred
=======================================

DISCHARCHE PHYSICAL EXAM
L deltoid ___ and pain limited, otherwise exam is non focal. 
Sensation and strength intact. Able to ambulate on her own 
without assistance. 
 
Pertinent Results:
LABS

___ 07:20AM BLOOD WBC-6.5# RBC-3.99 Hgb-13.0 Hct-38.4 
MCV-96 MCH-32.6* MCHC-33.9 RDW-12.3 RDWSD-43.3 Plt ___
___ 04:10PM BLOOD WBC-14.0* RBC-4.17 Hgb-13.5 Hct-39.5 
MCV-95 MCH-32.4* MCHC-34.2 RDW-12.3 RDWSD-43.0 Plt ___
___ 04:10PM BLOOD Neuts-61.6 ___ Monos-7.7 Eos-0.9* 
Baso-0.4 Im ___ AbsNeut-8.64* AbsLymp-4.07* AbsMono-1.08* 
AbsEos-0.13 AbsBaso-0.05
___ 07:20AM BLOOD Plt ___
___ 07:20AM BLOOD ___ PTT-32.1 ___
___ 04:10PM BLOOD Plt ___
___ 04:10PM BLOOD ___ PTT-29.8 ___
___ 07:20AM BLOOD Glucose-81 UreaN-10 Creat-0.7 Na-137 
K-3.8 Cl-103 HCO3-22 AnGap-16
___ 04:10PM BLOOD Glucose-93 UreaN-8 Creat-0.7 Na-137 K-3.4 
Cl-101 HCO3-19* AnGap-20
___ 07:20AM BLOOD CK(CPK)-38
___ 12:45PM BLOOD cTropnT-<0.01
___ 07:20AM BLOOD CK-MB-<1 cTropnT-<0.01
___ 07:20AM BLOOD Calcium-9.1 Phos-4.3 Mg-2.0 Cholest-142
___ 04:10PM BLOOD Albumin-4.4 Calcium-9.2 Phos-3.8 Mg-1.8
___ 07:20AM BLOOD %HbA1c-4.8 eAG-91
___ 07:20AM BLOOD Triglyc-111 HDL-65 CHOL/HD-2.2 LDLcalc-55
___ 07:20AM BLOOD TSH-1.7
___ 07:20AM BLOOD CRP-3.1
___ 04:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 07:20AM BLOOD SED RATE-PND

IMAGING

MRI BRAIN: No evidence of acute territorial infarction, 
intracranial hemorrhage, mass, or abnormal enhancement. 

 
Brief Hospital Course:
___ yo woman with no significant medical history presenting with 
an episode of headache, confusion, LT sided weakness, and chest 
tightness in the setting of severe anxiety after cocaine use. 
Imaging with brain MRI and CTA head/neck unremarkable (without 
vessel reformats to rule out small vasospasm read as normal by 
both outside hospital radiologists and ___ radiologists). Lyme 
serum sent and is pending. Orthostatics negative. Cardiac 
enzymes normal. She was monitored on telemetry, given IVF 
repletion, evaluated by ___. Symptoms improved spontaneously. 
Gabapentin was trialed, however it made patient sleepy so this 
medication was discontinued. Likely this could have represented 
a transient vasospasm from cocaine that has resolved, as well as 
a functional disorder given her significant anxiety. 

Transitional Issues
- Follow serum Lyme
- Close PCP follow up 
-___ with neurology x1 in ___ ___ at 3:30 ___
-outpatient echocardiogram to complete the stroke work up. 
 
Medications on Admission:
NONE
 
Discharge Medications:
NONE
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient headache, confusion, LT sided weakness, and chest 
tightness in the setting of severe anxiety after cocaine use. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

You were admitted to the hospital with left arm and leg weakness 
and confusion. Initial concerns were for a stroke or a seizure. 
We obtained imaging of your brain with MRI, as well as vessels 
with CTA head and neck which did not show any evidence of stroke 
or vessel spasm. We sent a Lyme blood test which is still 
pending. We also monitored your cardiac enzymes as you had 
symptoms of chest tightness and these were stable. You 
complained of leg pain and swelling so we checked your veins for 
clots and this was also negative. Your gait and strength slowly 
improved back to baseline. At this point we recommend close 
follow up with your PCP and one follow up appointment with us 
here in Neurology. We think that this episode was likely a 
physical manifestation of the severe stress you have been 
undergoing as well as possible transient small vasospasm due to 
cocaine use. We strongly urge you to NOT use cocaine in the 
future. Please have an ultrasound of your heart done in the 
outpatient setting. It was a pleasure caring for you and we are 
glad that you are on your way to recovery. 

It was a pleasure taking care of you, 

Your ___ neurology team 
 
Followup Instructions:
___